US08076331B2
3-Benzyloxy-6-[4-(3-piperidin-1-yl-propoxy)phenyl]pyridazine
Sodium hydride (0.007 g, 0.18 mmol) was stirred in anhydrous DMF (4 mL) under a nitrogen atmosphere, and benzyl alcohol (0.016 g, 0.15 mmol) was added. After 15 min., 3-chloro-6-[4-(3-piperidin-1-yl-propoxy)-phenyl]-pyridazine (0.05 g, 0.15 mmol) was introduced, and the reaction mixture was stirred at room temperature for 5 h. The precipitate was collected by filtration, washed with H2O (10 mL) and dried in vacuo to provide the title compound as a white solid (0.050 g, 83%), m.p. 138° C.; 1H NMR (CDCl3) 2.00 (m, 2H, —CH2—), 2.50 (m, 2H, —CH2—), 4.10 (m, 2H, —CH2—), 7.00 (d, 1H, C—H), 7.05 (d, 2H, Ar—H), 7.75 (d, 1H, C—H), 7.95 (d, 2H, Ar—H) HPLC retention time 2.612 mina.

reactant | Sodium hydride | 0.18 mmol, 0.007 g | [H-].[Na+]
reactant | benzyl alcohol | 0.15 mmol, 0.016 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 3-chloro-6-[4-(3-piperidin-1-yl-propoxy)-phenyl]-pyridazine | 0.15 mmol, 0.05 g | ClC=1N=NC(=CC1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C18H22ClN3O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-Benzyloxy-6-[4-(3-piperidin-1-yl-propoxy)phenyl]pyridazine | 0.050 g, 83% | C(C1=CC=CC=C1)OC=1N=NC(=CC1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C25H29N3O2
